US08937071B2
Step 2: 4-Amino-N,N-dimethyl-2-(trifluoromethyl)benzamide
To a solution of N,N-dimethyl-4-nitro-2-(trifluoromethyl)benzamide (10 g, 25.2 mmol) in MeOH (100 mL) stirred under N2 at 20° C. was added Pd/C (1 g, 9.40 mmol) in one charge. The reaction mixture stirred under a H2 atmosphere at 20° C. for 12 h. The mixture was filtered, and the filtrate was concentrated in vacuo to give the desired product 4-amino-N,N-dimethyl-2-(trifluoromethyl)benzamide (8.3 g, 23.59 mmol, 94.0% yield). TLC (DCM/MeOH=10:1, Rf=0.4): 1H NMR (400 MHz, CDCl3) δ 7.07 (d, J=8.2 Hz, 1H), 6.90 (s, 1H), 6.79 (d, J=8.2 Hz, 1H), 3.95 (br. s., 2H), 3.08 (s, 3H), 2.80 (s, 3H); ES-LCMS m/z 233.0 (M+H).

reactant | N,N-dimethyl-4-nitro-2-(trifluoromethyl)benzamide | 25.2 mmol, 10 g | CN(C(C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C10H9F3N2O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 9.40 mmol, 1 g | [Pd] | Pd
product | 4-amino-N,N-dimethyl-2-(trifluoromethyl)benzamide | 23.59 mmol, 8.3 g, 94.0% yield | NC1=CC(=C(C(=O)N(C)C)C=C1)C(F)(F)F | C10H11F3N2O
